* leung_nmcf_pin_3 -- open-loop gain bench on TSMC12 BSIM-CMG
* Measurements are AnalogGym's TB_Amplifier_ACDC.cir verbatim; supply, common
* mode and load are the TSMC12 design point.
*
* AnalogGym runs all five amplifier instances from one deck.  They share only
* ideal supply rails, so they are electrically independent and splitting them
* changes no measurement -- but five 90 dB loops in one matrix does not solve:
* gmin, source stepping and the transient op all fail, and which groupings
* happen to converge is luck of the Newton basin, not a rule.  One instance per
* deck is the only robust structure.
.include ./tsmc12_models.spice
.include ./netlist.spice

.PARAM supply_voltage = 0.8
.PARAM VCM = 0.275
.PARAM PARAM_CLOAD = 5e-10

V1 vdd 0 'supply_voltage'
V2 vss 0 0
Vindc opin 0 'VCM'
Vin signal_in 0 dc 'VCM' ac 1
.nodeset V(opout)=0.275 V(opout_dc)=0.275

Lfb opout opout_dc 1T
Cin opout_dc signal_in 1T

*    ADM TB
Xop1 vss vdd opout_dc opin opout leung_nmcf_pin_3
Cload1 opout 0 'PARAM_CLOAD'

.meas ac dcgain find vdb(opout) at = 0.1
.meas ac gain_bandwidth_product when vdb(opout)=0
.meas ac phase_in_rad find vp(opout) when vdb(opout)=0
.meas ac phase_in_deg param='phase_in_rad*180/3.1416'
.end
